datasets/10k_Mayr_OG.csv
SMILES Labelled
"C1C[CH:32]=[CH:31][C+:20]1[C:41]1=[CH:42][CH:43]=[CH:44][CH:53]=[CH:52]1.[H:10][CH:11]([CH:12]=[CH2:13])[CH:62]=[CH2:63]>>C1C[CH:32]=[CH:31][C:20]1([H:10])[C:41]1=[CH:42][CH:43]=[CH:44][CH:53]=[CH:52]1.[CH:11](=[CH:12][CH2+:13])[CH:62]=[CH2:63] 10,11=10,20;12,13=11,12"
C1=NC=N[C:61]2=[C:62]1[N:72]=[CH:71][N-:10]2.C[O:49][C:46]1=[CH:45][CH:44]=[C:43]([C:42](=[CH:41][CH+:20][C:31]2=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]2)[C:53]2=[CH:54][CH:55]=[C:56]([O:59]C)[CH:57]=[CH:58]2)[CH:48]=[CH:47]1>>C[O:49][C:46]1=[CH:45][CH:44]=[C:43]([C:42](=[CH:41][CH:20]([N:10]2[C:61]3=[C:62](C=NC=N3)[N:72]=[CH:71]2)[C:31]2=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]2)[C:53]2=[CH:54][CH:55]=[C:56]([O:59]C)[CH:57]=[CH:58]2)[CH:48]=[CH:47]1 10=20
"C1=CC2=C(C=C1)[C:32](=[O:33])[C:21](=[CH:20][C:41]1=[CH:42][C:43]3=[C:44]4N(CCC3)CCC[C:45]4=[CH:46]1)[C:22]2=[O:23].CC1=CC=[C:10]([B-:11]2(C3=CC=C(N(C)C)C=C3)[O:12]C(C)(C)C(C)(C)[O:62]2)S1>>CC1=CC=[C:10]([CH:20]([C:21]2=[C:22]([O-:23])C3=C(C=CC=C3)[C:32]2=[O:33])[C:41]2=[CH:42][C:43]3=[C:44]4N(CCC3)CCC[C:45]4=[CH:46]2)S1.CN(C)C1=CC=C([B-:11]2=[O+:12]C(C)(C)C(C)(C)[O:62]2)C=C1 10,11=10,20;12=11,12;20,21=21,22;22,23=23"
"CCC[C:11]1([H:10])CC[CH:13]=[CH:12]1.CN1CCC[C:33]2=[C:34]1[CH:35]=[CH:36][C:31]([CH+:20][C:41]1=[CH:42][C:43]3=[C:44](N(C)CCC3)[CH:45]=[CH:46]1)=[CH:32]2>>CCC[C:11]1=[CH:12][CH+:13]CC1.CN1CCC[C:33]2=[C:34]1[CH:35]=[CH:36][C:31]([CH:20]([H:10])[C:41]1=[CH:42][C:43]3=[C:44](N(C)CCC3)[CH:45]=[CH:46]1)=[CH:32]2 10,11=10,20;12,13=11,12"
"C1=CC=C([C:42](=[CH:41][CH+:20][C:31]2=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]2)[C:53]2=[CH:54][CH:55]=[CH:56][CH:57]=[CH:58]2)C=C1.C[Si:11]1([H:10])CCC1>>C1=CC=C([C:42](=[CH:41][CH:20]([H:10])[C:31]2=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]2)[C:53]2=[CH:54][CH:55]=[CH:56][CH:57]=[CH:58]2)C=C1.C[Si+:11]1CCC1 10,11=10,20"
"CC1=CC(C)=C([N:63]2[C:62](/[C:11](=[C:10](\C)C3=CC=CC=C3)[O-:12])=[N+:73](C3=C(C)C=C(C)C=C3C)[N:65]=[C:64]2C2=CC=CC=C2)C(C)=C1.CN1CCC[C:33]2=[C:34]1[CH:35]=[CH:36][C:31]([CH+:20][C:41]1=[CH:42][C:43]3=[C:44](N(C)CCC3)[CH:45]=[CH:46]1)=[CH:32]2>>CC1=CC(C)=C([N:63]2[C:62]([C:11]([C:10](C)(C3=CC=CC=C3)[CH:20]([C:31]3=[CH:32][C:33]4=[C:34](N(C)CCC4)[CH:35]=[CH:36]3)[C:41]3=[CH:42][C:43]4=[C:44](N(C)CCC4)[CH:45]=[CH:46]3)=[O:12])=[N+:73](C3=C(C)C=C(C)C=C3C)[N:65]=[C:64]2C2=CC=CC=C2)C(C)=C1 10,11=10,20;12=11,12"
"CC[O:82][C:71]([C-:10]1CCC[C:62]1=[O:61])=[O:72].CN(C)C1=CC=C(C2C3[CH:20](C4=CC=C(N(C)C)C=C4)[Pd-:21]23([P+](C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)[P+](C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)C=C1>>CC[O:82][C:71]([C:10]1([CH:20](C2=CC=C(N(C)C)C=C2)C2C(C3=CC=C(N(C)C)C=C3)[Pd-2:21]2([P+](C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)[P+](C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)CCC[C:62]1=[O:61])=[O:72] 10=20;20,21=21"
"CC[O:34][C:32]([C:21](=[CH:20][C:41]1=[CH:42][CH:43]=[C:44](C)[CH:45]=[CH:46]1)[C:22](=[O:23])[O:39]CC)=[O:33].C[C:11]1=[N:10]CC[N:12]1[C:63](C)=[O:64]>>CC[O:34][C:32]([C:21]([CH:20]([N:10]1CC[N+:12]([C:63](C)=[O:64])=[C:11]1C)[C:41]1=[CH:42][CH:43]=[C:44](C)[CH:45]=[CH:46]1)=[C:22]([O-:23])[O:39]CC)=[O:33] 10,11=10,20;12=11,12;20,21=21,22;22,23=23"
"C1=CC=C([N:62]2[CH:61]=[N:10][CH:64]=[CH:63]2)C=C1.C1CC[C:21](=[O:20])C1>>C1=CC=C([N:62]2[CH:61]=[N+:10]([O:20][C-:21]3CCCC3)[CH:64]=[CH:63]2)C=C1 10=20;20,21=21"
"C[C:22]1=[N+:23](C)C2=C(C=CC=C2)/[C:21]1=[CH:20]\[C:31]1=[CH:32][CH:33]=[C:34](C)[CH:35]=[CH:36]1.C[Si:11](C)([H:10])[O:62][Si:63](C)(C)C>>C[C:22]1=[C:21]([CH:20]([H:10])[C:31]2=[CH:32][CH:33]=[C:34](C)[CH:35]=[CH:36]2)C2=C(C=CC=C2)[N:23]1C.C[Si+:11](C)[O:62][Si:63](C)(C)C 10,11=10,20;20,21=21,22;22,23=23"
"C1=CC=C(CC2CCC[NH:10]2)C=C1.C1=CC=C(C[N+:23](CC2=CC=CC=C2)=[CH:22]/[CH:21]=[CH:20]/[C:31]2=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]2)C=C1>>C1=CC=C(CC2CCC[NH+:10]2[CH:20]([CH:21]=[CH:22][N:23](CC2=CC=CC=C2)CC2=CC=CC=C2)[C:31]2=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]2)C=C1 10=20;20,21=21,22;22,23=23"
"N#C[C:21]1=[CH:20][C:41]2=[N+:42]([O-])O[N:35]=[C:34]2[C:23]([N+:24]([O-])=[O:25])=[CH:22]1.O=[N+]([O-])C1=CC=C(/[CH:10]=[C:11](/[N:12]2CCCC2)[C:62]2=[CH:63][CH:64]=[CH:65][CH:74]=[CH:73]2)C=C1>>N#C[C:21]1=[CH:22][C:23](=[N+:24]([O-])[O-:25])[C:34]2=[N:35]O[N+:42]([O-])=[C:41]2[CH:20]1[CH:10](C1=CC=C([N+](=O)[O-])C=C1)[C:11](=[N+:12]1CCCC1)[C:62]1=[CH:63][CH:64]=[CH:65][CH:74]=[CH:73]1 10,11=10,20;12=11,12;20,21=21,22;22,23=23,24;24,25=25"
C1=CC=C([P:10](C2=CC=CC=C2)C2=CC=CC=C2)C=C1.C[C:34]1=[CH:33][CH:32]=[C:31]([CH+:20][CH:41]=[CH:42][C:53]2=[CH:54][CH:55]=[C:56](C)[CH:57]=[CH:58]2)[CH:36]=[CH:35]1>>C[C:34]1=[CH:33][CH:32]=[C:31]([CH:20]([P+:10](C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)[CH:41]=[CH:42][C:53]2=[CH:54][CH:55]=[C:56](C)[CH:57]=[CH:58]2)[CH:36]=[CH:35]1 10=20
"CN(C)C1=CC=C([P:10](C2=CC=C(N(C)C)C=C2)C2=CC=C(N(C)C)C=C2)C=C1.COC1=CC2=C(C=C1)[N+:23](C)=[CH:22][C:21]2=[CH:20][C:31]1=[CH:32][N:33](C)[C:42]2=[C:41]1C=C(OC)C=C2>>COC1=CC2=C(C=C1)[N:23](C)[CH:22]=[C:21]2[CH:20]([P+:10](C1=CC=C(N(C)C)C=C1)(C1=CC=C(N(C)C)C=C1)C1=CC=C(N(C)C)C=C1)[C:31]1=[CH:32][N:33](C)[C:42]2=[C:41]1C=C(OC)C=C2 10=20;20,21=21,22;22,23=23"
